US04960766
To a solution of benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide (20 g) and N,N-dimethylformamide (100 ml) was stirred at -35° C. Phosphorus trichloride (7.8 g) was added thereto and stirred for 10 minutes at the same temperature. The reaction mixture was added to water (600 ml). The precipitates were collected by filtration and washed with water to give benzhydryl 7β-tertbutoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (15.4 g).

reactant | benzhydryl 7β-tert-butoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate 1-oxide iodide | 20 g | [I-].C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | Phosphorus trichloride | 7.8 g | P(Cl)(Cl)Cl | Cl3P
solvent | water | 600 ml | O | H2O
product | benzhydryl 7β-tertbutoxycarbonylamino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 15.4 g | [I-].C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C30H32N4O5S.HI/c1-30(2,3)39-29(37)31-23-26(35)34-24(22(19-40-27(23)34)18-33-17-11-16-32(33)4)28(36)38-25(20-12-7-5-8-13-20)21-14-9-6-10-15-21;/h5-17,23,25,27H,18-19H2,1-4H3;1H/t23-,27-;/m1./s1
